US05008274
10.5 Grams (35.5 mM) of 6-(1-ethylenedioxy-4-chlorobutyl)-3,4-dihydrocarbostyril was dissolved in 10.6 g (71 mM) of dimethylformamide, to this solution was added 10.6 g (71 mM) of sodium iodide, 5.4 g (78.1 mM) of 1H-1,2,4-triazol and 6.5 ml (46.2 mM) of DBU, and the whole mixture was heated at 80° C. for 7 hours with stirring. The reaction mixture was concentrated by removing the solvent by evaporation under reduced pressure, the residue was extracted with chloroform. The chloroform extract was washed with water, dried with anhydrous magnesium sulfate, then concentrated. The resulting residue was purified by means of a silica gel column chromatography (eluent: chloroform:methanol=40:1), and recrystallized from ethanol-n-hexane to yield 8.0 g of 6-[1-ethylenedioxy-4-(1H-1,2,4-triazol-1-yl)butyl]-3,4-dihydrocarbostyril. Next, to a solution of 1 g (3.0 mM) of 6-[1-ethylenedioxy-4-(1H-1,2,4-triazol-1-yl)butyl] -3,4-dihydrocarbostyril with 10 ml of DMF was added 3 ml of 5%-hydrochloric acid and stirred for 2 hours at room temperature. After concentration by removal of the solvent, the residue was extracted with chloroform: methanol=3:1. The extract was washed with water, dried with an anhydrous magnesium sulfate, then concentrated by removal of the solvent. The resulting residue was recrystallized from chloroform-ethanol to yield 6-[4-(1H-1,2,4-triazol-1-yl)butyryl]-3,4-dihydrocarbostyril.

reactant | 6-(1-ethylenedioxy-4-chlorobutyl)-3,4-dihydrocarbostyril | 35.5 mM | C1OC(C(CCCl)OC1)C=1C=C2CCC(NC2=CC1)=O | C15H18ClNO3
reactant | sodium iodide | 71 mM, 10.6 g | [I-].[Na+]
reactant | 1H-1,2,4-triazol | 78.1 mM, 5.4 g | N1N=CN=C1 | C2H3N3
reactant | DBU | 46.2 mM, 6.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethylformamide | 71 mM, 10.6 g | CN(C=O)C | C3H7NO
product | 6-[1-ethylenedioxy-4-(1H-1,2,4-triazol-1-yl)butyl]-3,4-dihydrocarbostyril | 8.0 g | C1OC(C(CCN2N=CN=C2)OC1)C=1C=C2CCC(NC2=CC1)=O | C17H20N4O3
